Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Thiazides
 
Attending: ___.
 
Chief Complaint:
Palpitations, dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
History of Present Illness:  ___ yo M with a h/o afib, mitral 
valve prolaps and HTN p/w palpitations, dHF and hyponatremia. 

This morning around 6 am he started feeling palpitations. He 
measured his pulse and he says it was irregular and very fast. 
Usually his pulse is irregular and slow. He neveer felt 
previously that his heart is beating fst. He didn't have any 
fatigue, lightheadedness or chest pain. He noticed some dyspena 
on exertion in the last 2,5 weeks, especially when he had to go 
up the stairs. For the last month, he noticed that his legs are 
swollen. He didn't notice any change in urination, no increase 
in volume or dysuria. He says that he drinks only up to 2 L of 
fluid per day. Sometimes he feels as if he will loose the 
balance. He has no headaches or seizures. 
.  
In the ED, initial VS were: T 98.2, P 68, BP 170/70, RR 20, O2 
Sat: 98% on RA. Patient was given furosemide 40mg IV, aspirin 81 
mg x 3 and lidocaine jelly. Labs were significant for creatinine 
1.4, sodium 129, BNP 4796. A chest xray demonstrated bilateral 
effusions, pulmonary edema, and cardiomegaly concerning for CHF. 
 Vitals on transfer were  98.0 oral, HR - 67, RR - 14, BP - 
134/94, O2 Sat - 95% room air.
.  
On the floor, he feels good, doesn't feel palpitations or SOB, 
he is thirsty. 
 
Past Medical History:
1. HTN for long time
2. Atrial Fibrillation
3. OA, right hip replacement
4. Allergic Rhinitis
5. h/o Melanoma
6. h/o BCC
7. Hearing Loss
8. Seizure Disorder
9. Transient Global Amnesia 
___ Valve Prolapse
11. Catharact surgery
___. GERD 

 
Social History:
___
Family History:
his father lived until ___, doesn't know cause of death, ___ 
had heart problems, died at the age of ___.
 
Physical Exam:
Physical Exam on admission:  
Vitals: T: 95.5 BP: 164/62 P: 60 R: 20 O2: 98/RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Cracles on auscultation up to ___ of the lungs, no 
wheezes, rales, rhonchi  
CV: Irregular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 1+ ___ edema, 2+ pulses, no clubbing, 
cyanosis  
Neuro:  oriented x3, CN II-XII intact, muscle strenght ___, 
diadochochodiakinesis nl, gait - wasn't able to check 
.
PE on discharge: 
Vitals: T: 97 BP: 135/65 P: 71 R: 18 O2: 93/RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Few cracles on the bases, no wheezes, rales, rhonchi  
CV: Irregular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, trace ___ edema, 2+ pulses, no 
clubbing, cyanosis  

 
Pertinent Results:
Labs on admission:
___ 09:25AM BLOOD WBC-6.5 RBC-4.02* Hgb-12.4* Hct-35.0* 
MCV-87 MCH-30.8 MCHC-35.3* RDW-13.1 Plt ___
___ 09:25AM BLOOD ___ PTT-31.2 ___
___ 09:25AM BLOOD Glucose-114* UreaN-23* Creat-1.4* Na-129* 
K-4.8 Cl-94* HCO3-25 AnGap-15
___ 09:25AM BLOOD proBNP-4796*
___ 09:25AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.0
___ 05:05PM BLOOD Osmolal-273*
___ 05:45AM BLOOD TSH-6.2*
.
Labs on discharge:
___ 05:15AM BLOOD WBC-6.3 RBC-3.92* Hgb-11.8* Hct-33.9* 
MCV-87 MCH-30.0 MCHC-34.7 RDW-13.0 Plt ___
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD Glucose-94 UreaN-26* Creat-1.4* Na-129* 
K-4.2 Cl-93* HCO3-29 AnGap-11
___ 09:25AM BLOOD cTropnT-<0.01
___ 05:45AM BLOOD Calcium-8.9 Phos-3.6 Mg-1.9
___ 05:05PM BLOOD Osmolal-273*
. 
Cardiac ECHO: The left atrium is mildly dilated. There is mild 
symmetric left ventricular hypertrophy. Overall left ventricular 
systolic function is normal (LVEF>55%). The right ventricular 
cavity is mildly dilated with normal free wall contractility. 
The aortic root is mildly dilated at the sinus level. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened. There is no aortic valve stenosis. Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. There is 
mild pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion.   
.
CXR:  There is no focal consolidation.  
Prominence of the pulmonary vasculature as well as mild 
pulmonary edema is 
seen. There are bilateral small pleural effusions as well as 
cardiomegaly, 
new from the prior study. There is no pneumothorax. 
  
IMPRESSION: Findings consistent with congestive heart failure. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE: This is a ___ year old gentleman with a 
history of atrial fibrillation, mitral valve prolapse, 
hypertension and diastolic heart failure who presented with 
palpitations. He was found to be in mild decompensated heart 
failure and bradycardic on admission. He was started on lasix 
and metoprolol was discontinued. He was discharged home with 
physical therapy and nursing services.
.
ACTIVE MEDICAL ISSUES
# Decompensated heart failure: Presented with hypervolemia on 
exam (crackles on lung exam), but comfortable breathing on RA.  
Cardiac ECHO showed EF>55% and no signficant change since ___.  
 Unclear precipitant of mild decompensation.  No evidence of 
rapid ventricular response, hypertension, recent infection, 
dietary indiscretions. His TSH was mildly elevated (6.1).  He 
was started on lasix 20mg. He should have a full basic metabolic 
panel on discharge
.
# Atrial fibrillation: Longstanding. Was rate controlled  with 
metoprolol 50 mg qday. Per history had tachycardia prior to 
admission, not recorded in ED, even more he was bradycardic to 
30 on few occaions. TSH is 6.1, and should be re-checked with 
PCP since it might contribute to his heart rate, volume status 
and hyponatremia. Metoprolol was discontinuedand his HR was 
60-70 bpm.  We discussed starting coumadin since his CHADS2 
score is 5 (s CHF, htn, age, stroke).  Mr. ___ was familiar 
with risks and benefit of anticoagulation having discussed 
multiple times with his primary care physician and felt risk of 
bleeding out weighed stroke risk benefit. 
.  
#  Hyponatremia: Stable 129, 130.  SIADH noted on prior PCP 
___. Urine lytes on admission consistent with SIADH. CHF and 
mild thyroid function tests abnormal may contribute to 
multifactorial etiology on admission.
Advised normal salt diet and fluid restriction 1.5 L at home. 
Full BNP on ___ PCP ___.
.  
INACTIVE ISSUES
# CKD: baseline Cr 1.2, now Cr 1.4, within baseline
.
# BPH: continue finasteride
.
TRANSITIONAL ISSUES
- PCP ___: thyroid function tests, basic metabolic panel, 
rate control off metoprolol
- Dishcharge planning: home with ___ and physical therapy
- Code: FULL
 
Medications on Admission:
Amlodipine 5 mg Oral Tablet 
Metoprolol Succinate 50 mg Oral Tablet Extended Release 24 hr 
Finasteride (PROSCAR) 5 mg Oral Tablet 
Omeprazole 20 mg Oral Capsule, Delayed Release(E.C.) 
Lisinopril 40 mg Oral Tablet 
MULTIPLE DAILY W/IRON TABLET PO (MULTIVITAMINS W-IRON) 
ASPIRIN TABLET ___ 81MG PO 

 
Discharge Medications:
1. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. amlodipine 5 mg Tablet Sig: One (1) Tablet PO once a day.  
4. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
5. furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day.  
7. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atrial fibrillation
Acute Decompensation of Congestive Heart Failure
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you. You came because of heart 
palpitations and difficulty breathing. You have extra fluid in 
your lungs. We started you on a medication (lasix) that helped 
you excrete extra fluid the fluid that collected in your lungs. 
Your heart rate was slow in the hospital, so we stopped your 
metoprolol. An ultrasound of your heart (echo) was performed and 
your cardiac function was similar to prior studies.
.
We have done the following changes in your medication:
STOP metoprolol 50 mg
START furosemide 20 mg po daily (lasix)
.
You should restrict the amount of the fluid you are taking 
during the day to 1.5 L, because of the low sodium. Please do 
not restrict your dietary salt intake.
.
You should follow with your PCP ___ 3 days. 
 
Followup Instructions:
___